datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"CC[Pb:63](CC)(CC)[CH2:62][CH2:11][H:10].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CC[Pb:63](CC)(CC)[CH2:62][CH2+:11].CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[C@@H]1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:12]1[CH:11]=[N:10][CH:61]=[CH:62]1.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[N+:12]1=[CH:11][N:10]([CH:20]2[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]2=[O:33])[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:61][C:111]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N+:12]1=[CH:11][CH:10](C1=CC=CC=C1)[CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2(CC3=CC=C([N+](=O)[O-])C=C3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:91]2=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
C[N:10]1CCCCC1.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[N+:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C3=CC=CC=C3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)CCCCC1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.[N-:10]=[N+:61]=[N-:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]=[N+:61]=[N-:62])[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC(C)(C)[C:62]1=[C:61]([O-:10])[C:72](C(C)(C)C)=[CH:73][CH:64]=[CH:63]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([O:10][C:61]2=[C:62](C(C)(C)C)[CH:63]=[CH:64][CH:73]=[C:72]2C(C)(C)C)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)C23C4C5C6C2[Zr:11]56432789(C)([CH3:10])C3C2C7C18C39.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC1(C)C23C4C5C6C2[Zr+:11]56432789(C)C3C2C7C18C39.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH3:10])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C+:11](C)[CH2:10][CH:20](C)[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10,11=10,20"
